US07576089B2
4-Hydroxy-4-[5-(methoxymethyl)pyridin-2-yl]cyclohexanone
A solution of 2-bromo-5-(methoxymethyl)pyridine (2.61 g, 12.9 mmoles) was dissolved in dry THF (40 mL) under nitrogen and cooled to −78° C. n-Butyllithium (6.20 mL, 15.5 mmoles, 2.5 M in hexane) was added dropwise over 10 minutes to form a black solution. After 15 minutes, a solution of 1,4-dioxa-spiro[4.5]decan-8-one (2.21 g, 14.1 mmoles) in THF was added dropwise over 2 minutes and the mixture was gradually warmed to room temperature over 3 hours. TLC (50% ethyl acetate/hexane) and LC/MS indicated complete conversion. Aqueous HCl (14 mL, 6.0 M) was added and the mixture was stirred for 3 hours at room temperature and then neutralized with NaHCO3/H2O. The mixture was extracted 3 times with ethyl acetate and the combined extracts were adsorbed onto silica gel and chromatographed. The column was eluted with a gradient of hexane to 40% ethyl acetate/hexane. Pure fractions were combined and concentrated to provide the title compound as a pale yellow solid, 1.00 g (33%). LC/MS (M+H)+ m/z=236.1.

reactant | 2-bromo-5-(methoxymethyl)pyridine | 12.9 mmoles, 2.61 g | BrC1=NC=C(C=C1)COC | C7H8BrNO
reactant | n-Butyllithium | 15.5 mmoles, 2.5 M, 6.20 mL | C(CCC)[Li]
reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 14.1 mmoles, 2.21 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | HCl | 6.0 M, 14 mL | Cl | ClH
reactant | NaHCO3 H2O | C(=O)(O)[O-].[Na+].O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Hydroxy-4-[5-(methoxymethyl)pyridin-2-yl]cyclohexanone | OC1(CCC(CC1)=O)C1=NC=C(C=C1)COC | C13H17NO3
